US05057614
A solution of 2.50 g of 3-[1-(3-azidopropyl)-3-indolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 13 ml of DMF and 18 ml of 33% aqueous ammonia was heated to 140° C. for 4 hours. The product was filtered off from the cooled mixture to give 2.27 g of 3-[1-(3-azidopropyl)-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione, m.p. 222°-224° C.

reactant | 3-[1-(3-azidopropyl)-3-indolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 2.50 g | N(=[N+]=[N-])CCCN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C24H19N5O3
reactant | DMF | 13 ml | CN(C)C=O | C3H7NO
solvent | ammonia | 18 ml | N | H3N
product | 3-[1-(3-azidopropyl)-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 2.27 g | N(=[N+]=[N-])CCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C24H20N6O2
